US06300363B1
Step 1. 3-tert-Butyldimethylsilyloxymethyl-2-chloropyridine
To a solution of 2-chloro-3-(hydroxymethyl)pyridine (Read, M. W; and Ray, P. S.; J. Heterocyclic. Chem., 1995, 32, 1595-1597., 2.81 g, 19.1 mmol) and imidazole (3.25 g, 47.7 mmol) in N,N-dimethylformamide (30 ml) was added tert-butyldimethylsilyl chloride (3.74 g, 24.8 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred for 17 h. The solution was diluted with diethyl ether (200 ml), and the resulting solution was washed with water (100 ml×3), and dried (MgSO4). Removal of solvent gave an oily residue. Purification by flash column chromatography eluting with ethyl acetate/hexane (1:15) afforded 3.61 g (73%) of the title compound.

reactant | 2-chloro-3-(hydroxymethyl)pyridine | 19.1 mmol, 2.81 g | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | imidazole | 47.7 mmol, 3.25 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 24.8 mmol, 3.74 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-tert-Butyldimethylsilyloxymethyl-2-chloropyridine | 3.61 g, 73% | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)Cl | C12H20ClNOSi
